US07495103B2
A mixture of 2-(methylsulfanyl-phenylamino-methylene)-malonic acid diethyl ester (27 g, 87 mmol) in 1,2-dichlorobenzene (100 mL) was heated to reflux for 1.5 h. The solvent was removed under reduced pressure and the oily residue was triturated with hexane to afford a pale yellow solid that was purified by preparative HPLC to yield 4-hydroxy-2 -methylsulfanyl-quinoline-3-carboxylic acid ethyl ester (8 g, 35%).

reactant | 2-(methylsulfanyl-phenylamino-methylene)-malonic acid diethyl ester | 87 mmol, 27 g | C(C)OC(C(C(=O)OCC)=C(NC1=CC=CC=C1)SC)=O | C15H19NO4S
solvent | 1,2-dichlorobenzene | 100 mL | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | 4-hydroxy-2 -methylsulfanyl-quinoline-3-carboxylic acid ethyl ester | 8 g, 35% | C(C)OC(=O)C=1C(=NC2=CC=CC=C2C1O)SC | C13H13NO3S
